US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]propionate (6.1 g), conc. hydrochloric acid (20 ml) and acetic acid (40 ml) was refluxed under heating for 48 hours. The reaction mixture was treated in a similar manner to that of Example 10-(6) to give oily 2-[2-methoxy-3-(o-tolyloxy)phenyl]propionic acid (2.9 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]propionate | 6.1 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C20H21NO4
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-[2-methoxy-3-(o-tolyloxy)phenyl]propionic acid | 2.9 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)C(C(=O)O)C | C17H18O4
